Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
constipation, BRBPR
 
Major Surgical or Invasive Procedure:
colonoscopy

 
History of Present Illness:
___ female with deafness,
cognitive impairment, uterine fibroids with prior hysterectomy,
allergic rhinitis, who presented from home for inpatient
colonoscopy preparation for abdominal pain, chronic 
constipation,
and rectal bleeding.  Conversation was facilitated using BI ASL
interpreter ___ and another interpreter ___ who also signs
(is a language specialist) but helps with communicating due to
the patient's cognitive problems.  

The patient has had chronic constipation with frequent bright 
red
blood with bowel movements.  She denies melena.  She has been
having ongoing bilateral abdominal pain that is improved with
bowel movements.  Her last bowel movement was this morning.  She
denies any nausea, vomiting or hematemesis, though this was
difficult through intepreters, as she endorsed only "stomach
issues."  She denies fevers or significant weight loss.  She had
told her nurse right before I came in (using same interpreters)
that she'd been taking ibuprofen, but when I asked about
ibuprofen or Aleve, she did not recall taking either of these. 
She has been followed by her PCP and referred here for inpatient
preparation for colonoscopy due to her deafness and some
cognitive difficulties.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. Positive for
reflux.  Negative for dyspnea, cough, urinary difficulties.

 
Past Medical History:
Deafness, cognitive difficulties (unspecified - noted in PCP's
note), uterine fibroids with prior hysterectomy, allergic
rhinitis

 
Social History:
___
Family History:
Mother is alive and healthy.  The patient
acknowledges that she does not know of medical problems in her
family members but that her interaction with family is limited.
 
Physical Exam:
VITALS: ___ 1549 Temp: 98.3 PO BP: 130/82 HR: 108 RR: 18 O2
sat: 98% O2 delivery: RA 
GENERAL: Alert and in no apparent distress, sitting on bed, 
deaf,
communicates via sign language
EYES: Anicteric
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate.  Moist
mucus membranes.  Dentures on top and bottom.
CV: Heart regular, no murmur, no S3, no S4.  2+ radial pulses
bilaterally.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, tender to palpation in RLQ, no
rebound tenderness or guarding.  Bowel sounds present.
GU: No suprapubic fullness or tenderness to palpation, no Foley
MSK: Moves all extremities, no edema
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented x3, face symmetric
PSYCH: pleasant, appropriate affect, calm, cooperative

DISCHARGE EXAM:
___.___
GEN: pleasant AAF in NAD, sitting up in bed eating lunch after 
colonoscopy
HEENT: MMM
CV: RRR
RESP: CTAB no w/r
ABD: mild distension, no rebound, TTP or guarding
GU: no foley
EXTR: no edema

 
Pertinent Results:
___ 07:14AM BLOOD WBC-7.4 RBC-4.47 Hgb-12.3 Hct-36.9 MCV-83 
MCH-27.5 MCHC-33.3 RDW-14.2 RDWSD-42.5 Plt ___
___ 07:14AM BLOOD ___
___ 07:14AM BLOOD Glucose-90 UreaN-8 Creat-1.0 Na-147 K-4.1 
Cl-112* HCO3-22 AnGap-13
___ 07:14AM BLOOD Mg-1.8

Final colonoscopy report showed normal mucosa in colon, one 2mm 
sessile non-bleeding polyp in rectum s/p removal by snare.

 
Brief Hospital Course:
Pt was admitted for inpatient colonoscopy prep and stool was not 
clear on the morning of the scheduled procedure after pt had 
been up all night with loose (non-bloody) stools.   Due to 
complex translation needs and cognitive barriers, decision was 
made to reschedule the procedure on ___.  Pt continued on 
clear liquids and slow bowel prep on ___.  On the morning of 
___, pt had clear stools and was taken to colonoscopy with GI. 
  Pt tolerated the procedure well and  returned to the floor, 
advanced a regular diet without difficulty.   Pt was eager to 
return home and discharge teaching was provided with ASL and 
state translator at bedside. We reviewed the reassuring findings 
on the colonoscopy and I explained the removal of the polyp.  Pt 
was educated about potential bleeding post polyp removal and 
given recommendations about returning for urgent evaluation if 
moderate amounts of BRBPR.    I explained that constipation is 
likely contributing to her symptoms and she agreed to start 
taking the miralax daily as prescribed by Dr ___.   Otherwise, 
there were no changes made to the home medication regimen and pt 
was discharged to home with friend/advocate providing 
transportation.   
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion 75 mg PO TID 
2. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
3. Ranitidine 150 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1.  Polyethylene Glycol 17 g PO DAILY for constipation  
2.  BuPROPion 75 mg PO TID  
3.  Docusate Sodium 100 mg PO BID  
4.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
5.  Ranitidine 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Constipation
Abdominal pain
Rectal polyp s/p removal 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for a colonoscopy and it showed a small polyp 
in the rectum that has now been removed.  It is possible that it 
was causing some bleeding but that should be resolved now.  We 
recommend that you eat a high fiber diet and monitor for any 
signs of bleeding in your stool.  If you notice a large amount 
of blood in the toilet bowl, please return for immediate 
evaluation.  

Dr. ___ recommended that you start taking miralax and 
colace every day for constipation.  Please continue taking these 
medications as prescribed and keep the follow up appointment 
with Dr. ___ as scheduled below.   

Best wishes from your team at ___
 
Followup Instructions:
___